US09388105B2
Synthesis of 3-butoxy-2,2-dimethyl-propanol
90 g of 2,2-dimethyl-1,3-propanediol, 10 g of water, and 20 g of 5,5-dimethyl-2-propyl-1,3-dioxane were combined in a 300 mL autoclave with 1.5 g of 5% (by weight) Pd on carbon catalyst and 100 mg of phosphoric acid. The autoclave was sealed and purged twice with N2 and once with H2. The reactor was charged with H2 and heated to 200° C. The reactor was then brought to an operating pressure of 10.3 MPa and stirring commenced at 750 rpm. Pressure was maintained through the duration of the experiment. After 2 h, the autoclave was cooled and remaining gas vented. The autoclave was opened, its contents filtered, and the filtrate analyzed by gas chromatography (GC). 94% conversion of the acetal and 99% selectivity to 3-butoxy-2,2-dimethyl-propanol were observed.

reactant | 2,2-dimethyl-1,3-propanediol | 90 g | CC(CO)(CO)C | C5H12O2
reactant | 5,5-dimethyl-2-propyl-1,3-dioxane | 20 g | CC1(COC(OC1)CCC)C | C9H18O2
reactant | phosphoric acid | 100 mg | P(O)(O)(O)=O | H3O4P
catalyst | Pd on carbon | [Pd] | Pd
solvent | water | 10 g | O | H2O
product | 3-butoxy-2,2-dimethyl-propanol | C(CCC)OCC(CO)(C)C | C9H20O2
